US08008350B2
i) 4-Bromo-2-fluoro-1-[(4-fluorophenyl)sulfonyl]benzene
The subtitle compound was prepared by the method of example 2 step (i) using 4-bromo-2-fluorobenzenesulfonyl chloride and fluorobenzene.

reactant | 4-bromo-2-fluorobenzenesulfonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
product | 4-Bromo-2-fluoro-1-[(4-fluorophenyl)sulfonyl]benzene | BrC1=CC(=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)F)F | C12H7BrF2O2S
